US04363917
Example 8: 3-n-Butylthio-5-nitrophthalic acid N-methylimide
25.1 g (100 mmols) of 3,5-dinitrophthalic acid N-methylimide, 19.8 g (220 mmols) of n-butylmercaptan, 41.5 g (300 mmols) of anhydrous potassium carbonate and 250 ml of absolute tetrahydrofuran are kept under reflux overnight. The reaction mixture is filtered, the filtrate is evaporated and the residue is taken up in methylene chloride/2 N HCl. The extracts are washed with saturated NaCl solution, dried over sodium sulfate and evaporated. After recrystallisation from cyclohexane, 11.96 g (41% of theory) of the title imide are obtained; melting point: 106°-108° C.

reactant | 3,5-dinitrophthalic acid N-methylimide | 100 mmols, 25.1 g | CN=C(C=1C(C(=O)O)=C(C=C(C1)[N+](=O)[O-])[N+](=O)[O-])O | C9H7N3O7
reactant | n-butylmercaptan | 220 mmols, 19.8 g | C(CCC)S | C4H10S
reactant | potassium carbonate | 300 mmols, 41.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-n-Butylthio-5-nitrophthalic acid N-methylimide | CN=C(C=1C(C(=O)O)=C(C=C(C1)[N+](=O)[O-])SCCCC)O | C13H16N2O5S
